US09315507B2
2-(4-(Adamantan-1-yl)phenoxy)-N-(4-(4-methylpiperazin-1-yl)phenyl)acetamide (I-37)
The title compound was prepared from 2-(4-(adamantan-1-yl)phenoxy)acetic acid (0.2 g, 0.69 mmol) and 4-(4-methylpiperazin-1-yl)aniline (0.133 g, 0.69 mmol) according to the example 1, which was given 2-(4-(adamantan-1-yl)phenoxy)-N-(4-(4-methylpiperazin-1-yl)phenyl)acetamide as a white solid (0.30 g, 93.4% yield).

reactant | 2-(4-(adamantan-1-yl)phenoxy)acetic acid | 0.69 mmol, 0.2 g | C12(CC3CC(CC(C1)C3)C2)C2=CC=C(OCC(=O)O)C=C2 | C18H22O3
reactant | 4-(4-methylpiperazin-1-yl)aniline | 0.69 mmol, 0.133 g | CN1CCN(CC1)C1=CC=C(N)C=C1 | C11H17N3
product | 2-(4-(adamantan-1-yl)phenoxy)-N-(4-(4-methylpiperazin-1-yl)phenyl)acetamide | 0.30 g, 93.4% yield | C12(CC3CC(CC(C1)C3)C2)C2=CC=C(OCC(=O)NC3=CC=C(C=C3)N3CCN(CC3)C)C=C2 | C29H37N3O2
